US08486952B2
A solution of 7-(4-chlorophenyl)-6,7-dihydrocyclopenta[e][1,3]oxazine-2,4(3H,5H)-dione (5.4 g, 20.48 mmol) in concentrated ammonium hydroxide (59.8 mL, 1536 mmol) was stirred at 100° C. in a high-pressure vessel for 6 h. The formation of white precipitate was observed during the heating. The solvent was removed in vacuum to provide 7-(4-chlorophenyl)-6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione (4.9 g, 18.65 mmol, 91% yield) as a off-white solid. LC-MS (M+H)+=263.2. 1H NMR (500 MHz, DMSO-d6) δ ppm 7.37 (2H, d, J=8.2 Hz), 7.19 (1H, d, J=8.5 Hz), 4.16 (1H, d, J=5.2 Hz), 3.79 (1H, br s), 3.17 (1H, s), 2.51 (2H, d, J=1.8 Hz), 1.75-1.85 (1H, m).

reactant | 7-(4-chlorophenyl)-6,7-dihydrocyclopenta[e][1,3]oxazine-2,4(3H,5H)-dione | 20.48 mmol, 5.4 g | ClC1=CC=C(C=C1)C1CCC=2C(NC(OC21)=O)=O | C13H10ClNO3
reactant | ammonium hydroxide | 1536 mmol, 59.8 mL | [OH-].[NH4+]
product | 7-(4-chlorophenyl)-6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione | 18.65 mmol, 4.9 g, 91% yield | ClC1=CC=C(C=C1)C1CCC2=C1NC(NC2=O)=O | C13H11ClN2O2
